US07199147B2
Acetic anhydride (0.894 ml, 9.48 mmol) and pyridine (1 ml) were added to a solution of 2,5-dimethy-4-aminophenol (500 mg, 3.64 mmol) in ethyl acetate (5 ml), and the resulting mixture was refluxed. After 1 hour, hexane (50 ml) was poured into the reaction solution and the crystals formed were filtered under reduced pressure and then dried to obtain 4-(acetylamino)-2,5-dimethylphenyl acetate (763 mg, 95%).

reactant | Acetic anhydride | 9.48 mmol, 0.894 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,5-dimethy-4-aminophenol | 3.64 mmol, 500 mg | CC1=C(C=C(C(=C1)N)C)O | C8H11NO
reactant | hexane | 50 ml | CCCCCC | C6H14
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-(acetylamino)-2,5-dimethylphenyl acetate | 763 mg, 95% | C(C)(=O)OC1=C(C=C(C(=C1)C)NC(C)=O)C | C12H15NO3
